US08440652B2
A mixture of methyl 3-(aminomethyl)thiophene-2-carboxylate (4.5 g, 26.3 mmol) and K2CO3 (3.64 g, 26.3 mmol) in 1:1 MeOH:EtOH (600 mL) was heated overnight under reflux. The reaction was concentrated and purified by flash chromatography over silica gel (50-100% EtOAc/hexane) to yield 4H-thieno[2,3-c]pyrrol-6(5H)-one (2.2 g, 60% yield) as a white solid. 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.87 (d, J=4.8 Hz, 1H), 7.17 (d, J=4.8 Hz, 1H), 4.39 (s, 2H); MS (EI) m/z=140.2 [M+1]+.

reactant | methyl 3-(aminomethyl)thiophene-2-carboxylate | 26.3 mmol, 4.5 g | NCC1=C(SC=C1)C(=O)OC | C7H9NO2S
reactant | K2CO3 | 26.3 mmol, 3.64 g | C(=O)([O-])[O-].[K+].[K+]
reactant | MeOH | CO | CH4O
solvent | EtOH | 600 mL | CCO | C2H6O
product | 4H-thieno[2,3-c]pyrrol-6(5H)-one | 2.2 g, 60% yield | S1C=CC2=C1C(NC2)=O | C6H5NOS
